US07655666B2
A solution of N-(6-acetyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (12.1 g, 33.1 mmol) in THF (150 mL)/MeOH (150 mL) under nitrogen was treated with sodium borohydride (25.0 g, 660 mmol) portionwise over 18 h at r.t. The suspension was then poured into a mixture of ice/concentrated EtOAc. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (silica gel 60, DCM/MeOH 9:1) affording colorless crystals, which were recrystallized in EtOAc to provide N-[6-(1-hydroxy-ethyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (8.85 g, 24.1 mmol, 73%) as a white powder, m.p. 263-268° C., 1H-NMR (DMSO-d6, 400 MHz) 8.41 (s, 1H), 7.49 (s, 1H), 5.66 (m, 1H), 5.03 (br s, 1H), 3.18 (s, 3H), 1.36 (d, J=6.2 Hz, 3H).

reactant | N-(6-acetyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 33.1 mmol, 12.1 g | C(C)(=O)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C12H10F3N3O5S
reactant | MeOH | 150 mL | CO | CH4O
reactant | sodium borohydride | 660 mmol, 25.0 g | [BH4-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-[6-(1-hydroxy-ethyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 24.1 mmol, 8.85 g, 73% | OC(C)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C12H12F3N3O5S
